US07531532B2
Pyrrolidine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide
4-Amino-6-(2-fluoro-4-nitrophenoxy)pyrimidine (100 mg) was dissolved in tetrahydrofuran (3 ml) under a nitrogen atmosphere, and then triethylamine (0.112 ml) and phenyl chloroformate (0.100 ml) were added dropwise thereto, followed by stirring for 1.5 hrs. To the reaction mixture was added pyrrolidine (0.313 ml), followed by stirring for 30 min. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of ammonium chloride. The organic layer was washed with a saturated aqueous solution of ammonium chloride, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; hexane:ethyl acetate=2:1). The solvent was evaporated under a reduced pressure to give a residue, which was partitioned between ethyl acetate and a 1 N aqueous solution of sodium hydroxide. The organic layer was washed with water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then dried in vacuum to provide the titled compound (96.6 mg, 69.5%) as a yellow solid.

reactant | 4-Amino-6-(2-fluoro-4-nitrophenoxy)pyrimidine | 100 mg | NC1=NC=NC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C10H7FN4O3
reactant | triethylamine | 0.112 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.100 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyrrolidine | 0.313 ml | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | Pyrrolidine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide | 96.6 mg, 69.5% | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCCC2)C=CC(=C1)[N+](=O)[O-] | C15H14FN5O4
